US08859580B2
(7R,11S)-6,7,8,9,10,11-Hexahydro-11,13,13-trimethyl-7,11-methano-pyrazino[2,3-i][3]benzazocine
Glyoxal (40% in water, 95 μL) is added to (2R,6S)-1-(8,9-diamino-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl)-2,2,2-trifluoro-ethanone (260 mg) dissolved in ethanol (3 mL) and chilled in an ice bath. The cooling bath is removed and the solution is stirred at ambient temperature overnight. Then, the solution is concentrated and the residue is taken up in methanol (1 mL) and treated with 4 M aqueous NaOH solution (0.38 mL). After stirring at ambient temperature overnight, brine is added and the resulting mixture is extracted with ethyl acetate. The combined organic extracts are washed with brine, dried (MgSO4), and the solvent is removed under reduced pressure to give the crude title compound that is used without further purification.

reactant | Glyoxal | 95 μL | C(=O)C=O | C2H2O2
reactant | (2R,6S)-1-(8,9-diamino-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl)-2,2,2-trifluoro-ethanone | 260 mg | NC1=CC2=C(C[C@H]3N(CC[C@@]2(C3(C)C)C)C(C(F)(F)F)=O)C=C1N | C17H22F3N3O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (7R,11S)-6,7,8,9,10,11-Hexahydro-11,13,13-trimethyl-7,11-methano-pyrazino[2,3-i][3]benzazocine | C[C@]12CCN[C@H](CC3=C1C=C1C(=C3)N=CC=N1)C2(C)C | C17H21N3
